US05962675
Robins et al., 1974 J. Org. Chem. 39, 1891, describe the treatment of a methanolic solution of uridine with diazomethane (in glyme) in the presence of stannous chloride dihydrate (in methanol) to synthesize 2'-O-methyluridine (58% yield). This reaction also yielded a significant fraction (28%) of 3'-O-methyluridine which is purified away from the 2'-O-methyl form by chromatography.

reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 2'-O-methyluridine | 58% yield | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C10H14N2O6
